US08334301B2
tert-butyl ({5-[hydroxy(phenyl)methyl]-4-phenyl-2-thienyl}methyl)methylcarbamate
A solution of tert-butyl [(5-bromo-4-phenyl-2-thienyl)methyl]methylcarbamate (1.0 g) in tetrahydrofuran was cooled to −78° C., and 1.6 mol/L n-butyllithium-hexane solution (1.96 mL) was added dropwise. After stirring at the same temperature for 1 hr, benzaldehyde (334 mg) in tetrahydrofuran (3 mL) was added dropwise. The mixture was gradually warmed to room temperature, and stirred for 2 hr. The reaction mixture was treated with saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→9:1) to give the title compound as a pale-yellow oil (yield 607 mg, yield 57%).

reactant | tert-butyl [(5-bromo-4-phenyl-2-thienyl)methyl]methylcarbamate | 1.0 g | BrC1=C(C=C(S1)CN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C17H20BrNO2S
reactant | benzaldehyde | 334 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | tert-butyl ({5-[hydroxy(phenyl)methyl]-4-phenyl-2-thienyl}methyl)methylcarbamate | yield 607 mg, yield 57% | OC(C1=C(C=C(S1)CN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO3S
